US08912188B2
To a solution of (S)-methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (89 mg, 0.21 mmol) in methanol (25 mL) and chloroform (5 mL) was added sodium hydroxide (25.2 mg, 0.63 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (15 mL), adjusted pH to 5 with HCl (3 N) to give the precipitate, which was collected by filtration to afford (S)-2-(5-fluorobenzo[b]thiophen-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid (56 mg, 65%).

reactant | (S)-methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.21 mmol, 89 mg | FC1=CC2=C(SC(=C2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)C)C(=O)OC)C=C1 | C23H20FN3O2S
reactant | sodium hydroxide | 0.63 mmol, 25.2 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-(5-fluorobenzo[b]thiophen-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 56 mg, 65% | FC1=CC2=C(SC(=C2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)C)C(=O)O)C=C1 | C22H18FN3O2S
